US09233946B2
3-{[(5-Chloro-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoic acid
A solution of 5-chloro-3-methylbenzothiophene-2-sulfonyl chloride (200 mg, 0.711 mmol) in CH2Cl2 (5 mL) was added to a mixture of methyl 3-aminobenzoate (107 mg, 0.711 mmol) and pyridine (1 mL) in CH2Cl2 (5 mL). The reaction mixture was stirred at room temperature over night. The solvent was evaporated and the crude methyl 3-{[(5-chloro-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoate (100 mg) was slurried in water (4 mL). LiOH (300 mg) was added and the mixture was stirred at room temperature for 2 h. The reaction was acidified by aqueous 2 M HCl and the white precipitate was collected by filtration, washed with CH2Cl2 (5 mL) and dried. The title compound was obtained in 28% yield (75 mg, over two steps). MS (ESI+) calcd for C16H12ClNO4S2 380.989627, found 380.989527.

reactant | 5-chloro-3-methylbenzothiophene-2-sulfonyl chloride | 0.711 mmol, 200 mg | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)Cl)C)C1 | C9H6Cl2O2S2
reactant | methyl 3-aminobenzoate | 0.711 mmol, 107 mg | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-{[(5-Chloro-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoic acid | 28% yield | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)NC=2C=C(C(=O)O)C=CC2)C)C1 | C16H12ClNO4S2
